US08809369B2
A mixture solution of 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester (5 g, 12.7 mmol), morpholine (11.1 mL, 125 mmol), copper(I) iodide (1.43 g, 7.5 mmol), N,N-dimethylglycine hydrochloride (1.4 g, 10 mmol), and potassium carbonate (5.2 g, 75 mmol) in dimethyl sulfoxide (20 mL) was stirred at 120° C. for 16 h. Then the reaction mixture was cooled to room temperature. The reaction mixture was extracted with ethyl acetate (150 mL×2), washed with saturated aqueous ammonium chloride solution (50 mL×3) and brine (50 mL×2), dried over anhydrous sodium sulfate and then concentrated in vacuo and the residue was purified by ISCO combi-flash chromatography (gradient elution, 30-50% ethyl acetate in petroleum ether) to afford 6-fluoro-4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid (3 g, 61%) as a white solid: MS (ESI) M+1=385.1.

reactant | 2-(3-bromo-phenyl)-6-fluoro-4,4-dimethyl-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid methyl ester | 12.7 mmol, 5 g | COC(=O)C=1C=C(C=C2C(CC(NC12)C1=CC(=CC=C1)Br)(C)C)F | C19H19BrFNO2
reactant | morpholine | 125 mmol, 11.1 mL | N1CCOCC1 | C4H9NO
reactant | N,N-dimethylglycine hydrochloride | 10 mmol, 1.4 g | Cl.CN(CC(=O)O)C
reactant | potassium carbonate | 75 mmol, 5.2 g | C([O-])([O-])=O.[K+].[K+]
solvent | dimethyl sulfoxide | 20 mL | CS(=O)C | C2H6OS
catalyst | copper(I) iodide | 7.5 mmol, 1.43 g | [Cu]I
product | 6-fluoro-4,4-dimethyl-2-(3-morpholin-4-yl-phenyl)-1,2,3,4-tetrahydro-quinoline-8-carboxylic acid | 3 g, 61% | FC=1C=C2C(CC(NC2=C(C1)C(=O)O)C1=CC(=CC=C1)N1CCOCC1)(C)C | C22H25FN2O3
